US06799121B2
FIG. 3 shows a product-ion spectrum of the [M+107Ag]+ ion of GGEGG (SEQ. ID. NO. 2), glycylglycylglutamylglycylglycine. Sequencing of the argentinated peptide is straightforward and similar to that discussed in Example 1 for leucine enkephalin. The difference in m/z values between the [M+107Ag]+ ion and the first [bn+OH+Ag]+ ion is 482.1−425.1=57.0, which identifies the C-terminal residue as glycine (theoretical Δm/z 57.0). The difference in m/z values between the first [bn+OH+Ag]+ and the second [bn+OH+Ag]+ is 425.1−368.0=57.1; this identifies the residue preceding the C-terminus as, again, glycine. Repeating the procedure yields the next residue, glutamic acid (experimental Δm/z=128.9 versus theoretical Δm/z=129.0). The triplet peak pattern disappears beyond glutamic acid; however, manual interpretation reveals further sequence information. The [a1−H+Ag]+ in this product-ion spectrum is weak. However, the small m/z value of the [a1−H+Ag]+ ion of the last triplet, 193.1, strongly suggests that it is the [a1−H+Ag]+ ion. This makes G-G as the only possible option for the N-terminal and second residues (theoretical m/z=193.0). Furthermore, FIG. 3 shows a small peak at m/z 136.0, which is assignable as the [a1−H+Ag]+ ion (theoretical m/z=136.0, assuming the first residue is glycine). Thus, the determined sequence is G-G-E-G-G (SEQ. ID. NO. 2).

reactant | glycylglycylglutamylglycylglycine | NCC(=O)NCC(=O)N[C@@H](CCC(O)=O)C(=O)NCC(=O)NCC(=O)O | C13H21N5O8
reactant | leucine enkephalin | CC(C)CC(C(=O)O)NC(=O)C(CC1=CC=CC=C1)NC(=O)CNC(=O)CNC(=O)C(CC2=CC=C(C=C2)O)N | C28H37N5O7
reactant | glycine | NCC(=O)O | C2H5NO2
product | glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
